US06992087B2
Preparation of 4,5,6,7-tetrahydro-1-benzothiophen-4-amine
Following the procedure for the preparation of 4,5,6,7-tetrahydro-1-benzofuran-4-amine but substituting 6,7-dihydro-1-benzothiophen-4(5H)-one and making non-critical variations provided the title compound as a oil: 1H NMR (400 MHz, CDCl3) δ 7.09, 7.02, 3.95, 2.79, 2.03, 1.85, 1.62; 13C NMR (100 MHz, CDCl3) δ 140.51, 137.18, 126.77, 122.66, 47.96, 34.24, 25.48, 21.48;

reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
reactant | 6,7-dihydro-1-benzothiophen-4(5H)-one | S1C=CC2=C1CCCC2=O | C8H8OS
product | 4,5,6,7-tetrahydro-1-benzothiophen-4-amine | S1C=CC2=C1CCCC2N | C8H11NS
